US06482829B2
Lithium aluminium hydride (1.39 g, 37 mmol) was dissolved in tetarhydrofuran (20 mL) and the intermediate (rac)-8-benzyl-2-methyl-4-phenyl-2,8-diaza-spiro[4.5]decane-1,3-dion (2.55 g, 7.32 mmol, dissolved in 20 mL dry tetrahydrofuran) was added slowly. The reaction mixture was stirred at room temperature for 2 h. Water (1.4 mL), sodium hydroxide (15% in water, 1.5 mL) and water (4.2 mL) were added dropwise. The precipitate was filtered off and the filtrate was evaporated. The residue was purified by flash chromatography (hexane/ethyl acetate/triethyl amine 30:20.1) to yield the intermediate (rac)-8-benzyl-2-methyl-4-phenyl-2,8-diaza-spiro[4.5]decane (1.40 g, 60%).

reactant | Lithium aluminium hydride | 37 mmol, 1.39 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (rac)-8-benzyl-2-methyl-4-phenyl-2,8-diaza-spiro[4.5]decane-1,3-dion | 7.32 mmol, 20 mL, 2.55 g | C(C1=CC=CC=C1)N1CCC2(C(C(N(C2=O)C)=O)C2=CC=CC=C2)CC1 | C22H24N2O2
reactant | sodium hydroxide | 1.5 mL | [OH-].[Na+]
solvent | water | 4.2 mL | O | H2O
solvent | Water | 1.4 mL | O | H2O
product | (rac)-8-benzyl-2-methyl-4-phenyl-2,8-diaza-spiro[4.5]decane | 1.40 g, 60% | C(C1=CC=CC=C1)N1CCC2(C(CN(C2)C)C2=CC=CC=C2)CC1 | C22H28N2
